US08609794B2
To a −10° C. solution of 4-chloro-2-(hydroxypropan-2-yl)phenol (6.00 g, 32.15 mmol) in 100 mL of methylene chloride add triethylsilane (31.0 mL, 194.08 mmol) and boron trifluoride diethyl etherate (66 mL, 520.82 mmol) dropwise over a period of 10 minutes. Keep the reaction mixture cold and stir for an additional hour before quenching with aqueous sodium bicarbonate. Separate the mixture, and extract the aqueous phase with methylene chloride. Wash combined organic phases with aqueous sodium bicarbonate and brine, dry over anhydrous magnesium sulfate, filter, and concentrate to give a purple oil. Purify by flash chromatography using 25% ethyl acetate in hexanes to give 4.37 g (80%) of pure 4-chloro-2-isopropylphenol as a clear oil. 1H NMR (400 MHz, CDCl3) δ 7.15 (d, J=2.6 Hz, 1H), 7.01 (dd, J=8.5, 2.6 Hz, 1H), 6.66 (d, J=8.5 Hz, 1H), 4.77 (s, 1H), 3.17 (sept, 1H), 1.24 (d, J=6.9 Hz, 6H). 3C NMR (101 MHz, CDCl3) δ 151.26, 136.37, 126.56, 126.36, 125.81, 116.46, 27.14, 22.33. MS: m/e 171.

reactant | 4-chloro-2-(hydroxypropan-2-yl)phenol | 32.15 mmol, 6.00 g | ClC1=CC(=C(C=C1)O)C(C)CO | C9H11ClO2
reactant | triethylsilane | 194.08 mmol, 31.0 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride diethyl etherate | 520.82 mmol, 66 mL | B(F)(F)F.CCOCC
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-chloro-2-isopropylphenol | 4.37 g, 80% | ClC1=CC(=C(C=C1)O)C(C)C | C9H11ClO
